US04950674
4-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl-1-piperidinyl]propoxy -benzoic acid hydrochloride hydrate [1:1:0.5]
A solution of 2.7 g (0.005 mole) of 4-[3-[4-[bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy]benzoic acid ethyl ester and 1.2 g(0.022 mole) of potassium hydroxide in 50 ml of ethanol and 20 ml of water was heated on a steam bath for 2 hr. Acetic acid, 10 ml, was added and the solution was poured into 500 ml of ice water and the mixture was allowed to stand at ambient temperature overnight. Sodium chloride was added to the mixture to give a coagulated solid. The solid was collected by filtration and air dried. The solid was dissolved in 20 ml of isopropyl alcohol and the solution was poured into 30 ml of ethereal hydrogen chloride. The salt which gradually crystallized was collected by filtration, washed with ethyl ether and dried to give 0.2 g (8%) of white powder, m.p. 148°-158° C. with decomposition.

reactant | 4-[3-[4-[bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy]benzoic acid ethyl ester | 0.005 mole, 2.7 g | C(C)OC(C1=CC=C(C=C1)OCCCN1CCC(CC1)C(O)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C30H33F2NO4
reactant | potassium hydroxide | 0.022 mole, 1.2 g | [OH-].[K+]
reactant | Acetic acid | C(C)(=O)O | C2H4O2
reactant | Sodium chloride | [Cl-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 4-[Bis(4-fluorophenyl)hydroxymethyl-1-piperidinyl]propoxy -benzoic acid hydrochloride hydrate | 0.2 g, 8% | O.Cl.FC1=CC=C(C=C1)C1C(N(CCC1)CCCOC1=CC=C(C(=O)O)C=C1)(CO)C1=CC=C(C=C1)F | InChI=1S/C28H29F2NO4.ClH.H2O/c29-23-10-4-20(5-11-23)26-3-1-16-31(28(26,19-32)22-8-12-24(30)13-9-22)17-2-18-35-25-14-6-21(7-15-25)27(33)34;;/h4-15,26,32H,1-3,16-19H2,(H,33,34);1H;1H2
